US08242116B2
tert-Butyl [4-(morpholin-4-yl)phenyl]carbamate
To a stirred solution of Intermediate 132 (4.8 g, 26.97 mmol) in DCM (70 mL) was added DIPEA (5.6 mL, 32.36 mmol), followed by di-tert-butyl dicarbonate (7.1 g, 32.36 mmol). The reaction mixture was stirred at r.t. for 16 h. Water (50 mL) was added, and the layers were separated. The aqueous fraction was extracted with DCM (2×30 mL). The combined organic fractions were washed with water (3×100 mL), dried (Na2SO4), filtered and concentrated in vacuo. The residue was triturated with hexanes, then filtered to give the title compound (7.03 g, 93%) as a purple solid. δH (DMSO-d6) 9.01 (1H, br. s), 7.34-7.25 (2H, d, J 8.7 Hz), 6.87-6.79 (2H, d, J 9.0 Hz), 3.78-3.65 (4H, m), 3.07-2.93 (4H, m), 1.46 (9H, s). LCMS (ES+) 279.0 (M+H)+, RT 2.70 minutes (Method 4).

reactant | DIPEA | 32.36 mmol, 5.6 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | di-tert-butyl dicarbonate | 32.36 mmol, 7.1 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | Water | 50 mL | O | H2O
solvent | DCM | 70 mL | C(Cl)Cl | CH2Cl2
product | tert-Butyl [4-(morpholin-4-yl)phenyl]carbamate | 7.03 g, 93% | N1(CCOCC1)C1=CC=C(C=C1)NC(OC(C)(C)C)=O | C15H22N2O3
